US05650422
Following a procedure similar to that described in Example 32A, 0.75 g (0.0023 mol) of 2-(2-pyrimidinylsulfinylmethyl)saccharin was oxidized with 0.4 g (0.0023 mol) of 3-chloroperbenzoic acid in 50 ml of MDC and the product recrystallized from 75:25 acetonitrile:ethanol to give 2-(2-pyrimidinylsulfonylmethyl)saccharin, mp 225°-227° C.

reactant | 2-(2-pyrimidinylsulfinylmethyl)saccharin | 0.0023 mol, 0.75 g | N1=C(N=CC=C1)S(=O)CN1S(=O)(=O)C2=CC=CC=C2C1=O | C12H9N3O4S2
reactant | 3-chloroperbenzoic acid | 0.0023 mol, 0.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | 2-(2-pyrimidinylsulfonylmethyl)saccharin | N1=C(N=CC=C1)S(=O)(=O)CN1S(=O)(=O)C2=CC=CC=C2C1=O | C12H9N3O5S2
